### PR TITLE
[Merged by Bors] - feat(Algebra/Category): API for `Under R`

### PR DESCRIPTION
**Pull request by chrisflav**
We provide API for `Under R` where `R : CommRingCat`. We also add some `simp` lemmas for the various ring categories.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/Ring/Under.lean [hunk 1]
```diff
@@ -0,0 +1,159 @@
...
+lemma toAlgHom_comp {A B C : Under R} (f : A ⟶ B) (g : B ⟶ C) :
+    toAlgHom (f ≫ g) = (toAlgHom g).comp (toAlgHom f) := rfl
+
+@[simp]
+lemma toAlgHom_apply {A B : Under R} (f : A ⟶ B) (a : A) :
+    toAlgHom f a = f.right a :=
+  rfl
+
+variable (R) in
+/-- -/
```
Comment (erdOne) [inline Mathlib/Algebra/Category/Ring/Under.lean:53]: This is missing

File: Mathlib/Algebra/Category/Ring/Under.lean [hunk 2]
```diff
@@ -0,0 +1,159 @@
...
+@[simps! hom, simps! (config := .lemmasOnly) right]
+def mkUnder (A : Type u) [CommRing A] [Algebra R A] : Under R :=
+  Under.mk (CommRingCat.ofHom <| algebraMap R A)
+
+/-- Make a morphism in `Under R` from an algebra map. -/
+def fromAlgHom {A B : Type u} [CommRing A] [CommRing B] [Algebra R A] [Algebra R B]
```
Comment (erdOne) [inline Mathlib/Algebra/Category/Ring/Under.lean:59]: Maybe move this under the `AlgHom` namespace to get dot notation?

File: Mathlib/Algebra/Category/Ring/Under.lean [hunk 3]
```diff
@@ -0,0 +1,159 @@
...
+@[simp]
+lemma fromAlgHom_right_apply {A B : Type u} [CommRing A] [CommRing B] [Algebra R A] [Algebra R B]
+    (f : A →ₐ[R] B) (a : A) :
+    (fromAlgHom f).right a = f a :=
+  rfl
+
+@[simp]
+lemma fromAlgHom_comp {A B C : Type u} [CommRing A] [CommRing B] [CommRing C] [Algebra R A]
+    [Algebra R B] [Algebra R C] (f : A →ₐ[R] B) (g : B →ₐ[R] C) :
+    (fromAlgHom (g.comp f)) = fromAlgHom f ≫ fromAlgHom g :=
```
Comment (erdOne) [inline Mathlib/Algebra/Category/Ring/Under.lean:74]:
```suggestion
    fromAlgHom (g.comp f) = fromAlgHom f ≫ fromAlgHom g :=
```

File: Mathlib/Algebra/Category/Ring/Under.lean [hunk 4]
```diff
@@ -0,0 +1,159 @@
...
+  rfl
+
+lemma mkUnder_ext {A B : Type u} [CommRing A] [CommRing B] [Algebra R A] [Algebra R B]
```
Comment (erdOne) [inline Mathlib/Algebra/Category/Ring/Under.lean:77]: Should this be `@[ext]`? 
Is this not stated for general `A : Under R` so that the forall in `h` is over `A` and not `A.left` (or something else ugly)? If so, maybe `mkUnder R B` can still be some general `B : Under R`.

File: Mathlib/Algebra/Category/Ring/Under.lean [hunk 5]
```diff
@@ -0,0 +1,159 @@
...
+
+@[reassoc (attr := simp)]
+lemma pushout_inr_tensorProdObjIsoPushoutObj_inv_right (A : Under R) :
+    pushout.inr A.hom (algebraMap R S) ≫
+      (tensorProdObjIsoPushoutObj S A).inv.right =
+      (CommRingCat.ofHom <| Algebra.TensorProduct.includeLeftRingHom) := by
+  simp [tensorProdObjIsoPushoutObj]
+
+/-- `A ↦ S ⊗[R] A` is naturally isomorphic to `A ↦ pushout A.hom (algebraMap R S)`. -/
+def tensorProdIsoPushout : tensorProd R S ≅ Under.pushout (algebraMap R S) :=
```
Comment (erdOne) [inline Mathlib/Algebra/Category/Ring/Under.lean:145]:
```suggestion
@[simps!]
def tensorProdIsoPushout : tensorProd R S ≅ Under.pushout (algebraMap R S) :=
```
Maybe?

Comment (chrisflav) [reply Mathlib/Algebra/Category/Ring/Under.lean:159]: This produces horrible lemmas, I manually added an `_app` lemma.

**Review by erdOne — COMMENTED** [review]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by chrisflav** [comment]
Thanks for the reviews!
